US04382951
(D) 7-Fluoro-4-chloromethyl-2H-1-benzopyrane (for Examples 14 to 16)
1.22 g of pyridine are added to 28 g of 7-fluoro-4-hydroxymethyl-2H-1-benzopyrane in 50 ml of diethylether. The mixture is cooled to 5° and 2 g of thionylchloride in 10 ml diethylether slowly added dropwise. The reaction is continued for 30 minutes at 5°-10° and 2 hours at room temperature. The resulting mixture is poured onto ice-water, the organic phase separated and the aqueous phase extracted with a further 20 ml of diethyl ether. The combined ether solutions are dried over MgSO4 and concentrated by evaporation.

reactant | pyridine | 1.22 g | N1=CC=CC=C1 | C5H5N
reactant | 7-fluoro-4-hydroxymethyl-2H-1-benzopyrane | 28 g | FC1=CC2=C(C(=CCO2)CO)C=C1 | C10H9FO2
reactant | thionylchloride | 2 g | S(=O)(Cl)Cl | Cl2OS
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
product | 7-Fluoro-4-chloromethyl-2H-1-benzopyrane | FC1=CC2=C(C(=CCO2)CCl)C=C1 | C10H8ClFO
